US06958383B2
5 g of 2-bromoacetylpyridine hydrobromide and 7 cm3 of pyridine are introduced into a three-necked flask containing 50 cm3 of tetrahydrofuran. The stirring is maintained for 2 days at room temperature and then the precipitate formed is filtered, washed with 30 cm3 of tetrahydrofuran and then dried at 40° C. under reduced pressure (90 Pa) to give 6.9 g of 1-[2-oxo-2-(2-pyridyl)ethyl]pyridinium hydrobromide in the form of a beige solid which is used as it is.

reactant | 2-bromoacetylpyridine hydrobromide | 5 g | Br.BrCC(=O)C1=NC=CC=C1
reactant | pyridine | 7 cm3 | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 50 cm3 | O1CCCC1 | C4H8O
product | 1-[2-oxo-2-(2-pyridyl)ethyl]pyridinium hydrobromide | 6.9 g | Br.O=C(C[N+]1=CC=CC=C1)C1=NC=CC=C1 | InChI=1S/C12H11N2O.BrH/c15-12(11-6-2-3-7-13-11)10-14-8-4-1-5-9-14;/h1-9H,10H2;1H/q+1;
